2133-02-04 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS DRAIN INSERTION - At [**2133-2-3**] 03:22 PM -> extension of
   IR placed CBD stent; external drain removed.
 THORACENTESIS - At [**2133-2-3**] 03:22 PM ->removal of 700ml of R
   pleural effusion [**Last Name (un) 73**] IR guided CBD stent; chemistries added on
   - IVF boluses for low urine output and hypotension following CBD stent
   placement; 750ml total
   -added phos binder and ordered renal u/s per renal reccs
 PICC LINE - START [**2133-2-3**] 12:00 PM
   placed [**2133-1-29**] 1400
   Allergies:
   Last dose of Antibiotics:
   Fluconazole - [**2133-2-3**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2133-2-4**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-2-4**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 74 (71 - 79) bpm
   BP: 106/46(60){88/34(47) - 113/47(62)} mmHg
   RR: 24 (15 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,790 mL
                                                                    884 mL
   PO:
             TF:
             248 mL
   IVF:
                                                                  1,600 mL
                                                                    436 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                     96 mL
   Urine:
                                                                    445 mL
                                                                     21 mL
   NG:
                                                                     60 mL
                                                                    200 mL
   Stool:
   Drains:
                                                                  1,350 mL
   Balance:
                                                                    995 mL
                                                                    788 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   531 K/uL
   8.1 g/dL
   154 mg/dL
   5.0 mg/dL
   17 mEq/L
   5.6 mEq/L
   57 mg/dL
   110 mEq/L
   141 mEq/L
   27.9 %
   13.5 K/uL
        [image002.jpg]
                             [**2133-1-31**]  05:40 AM
                             [**2133-1-31**]  12:11 PM
                             [**2133-1-31**]  04:45 PM
                             [**2133-2-1**]  05:17 AM
                             [**2133-2-1**]  04:19 PM
                             [**2133-2-2**]  04:40 AM
                             [**2133-2-2**]  04:28 PM
                             [**2133-2-3**]  05:18 AM
                             [**2133-2-3**]  05:32 PM
                             [**2133-2-4**]  04:25 AM
   WBC
   19.5
   16.9
   14.6
   15.0
   13.5
   Hct
   23.5
   22.4
   22.9
   22.2
   22.3
   21.1
   21.1
   28.5
   29.0
   27.9
   Plt
   546
   530
   476
   594
   531
   Cr
   3.3
   3.6
   3.4
   3.5
   3.7
   4.1
   5.0
   TropT
   0.12
   0.13
   0.14
   Glucose
   134
   197
   39
   136
   72
   154
   Other labs: PT / PTT / INR:15.3/27.4/1.4, CK / CKMB /
   Troponin-T:12/3/0.14, ALT / AST:[**5-/2085**], Alk Phos / T Bili:148/5.9,
   Albumin:2.2 g/dL, LDH:243 IU/L, Mg++:2.2 mg/dL, PO4:8.5 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB): pt has remained in sinus since starting
   Diltiazem
   - continue Diltiazem 60 mg PO TID
 .H/O CANCER (MALIGNANT NEOPLASM), STOMACH: Adenocarcinoma on biopsy.
   -Followed at [**Hospital3 122**] hospital.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Pt with acute rise
   in creatinine this morning with hyperkalemia and hyperphosphatemia.  AG
   on morning labs is likely due to uremia.  UOP decreased despite fluid
   boluses, and then pt became anuric.   Due to hyperkalemia, EKG was
   checked (with no changes), and kayexelate was given.  Renal team was
   consulted, and recommended starting HD, which the family agreed to.
   Due to pt
s tenuous BP with systolic ~100, CVVH was started.
   -          f/u renal recs
   -          f/u lytes anf replete PRN
   -          monitor BP
 Dyspnea: Pt has had worsening dyspnea.  Likely [**2-14**] combination of
   fluid overload (receiving fluid boluses for decreased UOP, but then not
   putting out any urine) as well as a gap metabolic acidosis driving an
   increase in RR (gap metabolic acidosis is likely [**2-14**] uremia) and PNA.
   -          CVVH as above
   -          Continue high flow mask as needed
   -          Complete 14 day course of levo/vanc/zosyn for HAP
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB): pt had guaiac positive
   stool in ostomy, however [**Hospital1 **] hct over the past 5 days have been stable.
   -          monitor hct daily
   -          transfuse for hct<21
 PERICARDITIS, OTHER: likely [**2-14**] uremia.  Echo with no evidence of
   increased effusion.
   -          CVVH as above
   -          F/U renal recs
 PNEUMONIA, OTHER: pt developed multilobar PNA while hospitalized.
   WBC count trending down.  Afebrile today.
   - continue levo/vanc/zosyn for 14 days (today is day 12)
 ANEMIA, CHRONIC: pt takes epoeitin as an outpt for hx of AOCD
   -          continue epoeitin
   -          monitor hct daily
   -          transfuse for hct<21
 PARKINSON'S DISEASE: continue sinemet
 DIABETES MELLITUS (DM), TYPE II: FS have not been well controlled.
   - tighten SC insulin regimen, but if dose not work consider insulin gtt
 [**Hospital 74**] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA): no
   evidence of PTX on CXR today.
   - continue to monitor resp status
 CHOLESTASIS: [**2-14**] biliary obstruction from duodenal mass likely due to
   recurrance of gastric cancer.  pt is s/p CBD stent revision yesterday.
   - F/U IR recs
   -          monitor for fever
   -          monitor t. bili daily
 PLEURAL EFFUSION, ACUTE: pt is s/p thoracentesis with removal of 700
   cc from R pleural effusion
   - continue to monitor resp status, and manage dyspnea as described
   above
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2133-2-4**] 12:04 AM 40 mL/hour
   Glycemic Control:  Insulin SC and HISS
   Lines:
   PICC Line - [**2133-2-3**] 12:00 PM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer: lansoprozole
   VAP:  vanc/zosyn/flagyl
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU
   ------ Protected Section ------
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, sclera icteric
   Head, Ears, Nose, Throat: Normocephalic, NG tube, face mask, elevated
   JVP
   Cardiovascular: (S1: Normal), (S2: Normal), Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Bil Bases R>L, Wheezes : Inspiratory, on the R)
   Abdominal: Soft, Non-tender, Bowel sounds present, Ostomy in place with
   brown stool
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Not assessed, Tone: Not
   assessed
   ------ Protected Section Addendum Entered By:[**Name (NI) 125**] [**Name8 (MD) 126**], MD
   on:[**2133-2-4**] 22:25 ------

2133-02-04 11:48:00 Physician Attending Progress Note
Chief Complaint: Resp failure, bacteremia, cholangitis, renal failure,
   pericarditis, pleural effusion
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   External biliary drain removed. Thoracentesis for 700 cc of right
   effusion performed by IR. Recieved several fluid boluses last night for
   decreased urine output and marginal BP. Phosphate binder started.
   Positive fluid balance yesterday.  Patient afebrile. Bili down slightly
   today with modification of internal drainage of biliary system.
   24 Hour Events:
 PICC LINE - START [**2133-2-3**] 12:00 PM
   placed [**2133-1-29**] 1400
 PERCUTANEOUS DRAIN INSERTION - At [**2133-2-3**] 03:22 PM
 THORACENTESIS - At [**2133-2-3**] 03:22 PM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Last dose of Antibiotics:
   Fluconazole - [**2133-2-3**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2133-2-4**] 04:00 AM
   Levofloxacin - [**2133-2-4**] 09:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Vanco - held
   colace
   Epogen
   Insulin
   Diltiazem
   Xopenex
   Atrovent
   ASA
   Sinemet
   Heparin SC
   aluminum hydorxide
   Prevacid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-2-4**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.1
   HR: 77 (64 - 80) bpm
   BP: 102/36(52){85/34(47) - 113/53(66)} mmHg
   RR: 25 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,790 mL
                                                                  1,360 mL
   PO:
             TF:
             455 mL
   IVF:
                                                                  1,600 mL
                                                                    585 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    510 mL
   Urine:
                                                                    445 mL
                                                                     35 mL
   NG:
                                                                     60 mL
                                                                    320 mL
   Stool:
   Drains:
                                                                  1,350 mL
   Balance:
                                                                    995 mL
                                                                    850 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished, No(t) Overweight / Obese, No(t)
   Thin, No(t) Anxious, No(t) Diaphoretic, Increased accessory muscle use
   with breathing.
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, Icterus
   Head, Ears, Nose, Throat: Normocephalic, JVP to the angle of the jaw
   Cardiovascular: (S2: Distant), No(t) S3, No(t) S4, Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic), Pericardial friction rub obscuring heart
   sounds. PMI diffuse
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffuse, Bronchial: Few pops and squeaks, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Colostomy
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Not assessed, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   531 K/uL
   154 mg/dL
   5.0 mg/dL
   17 mEq/L
   5.6 mEq/L
   57 mg/dL
   110 mEq/L
   141 mEq/L
   27.9 %
   13.5 K/uL
        [image002.jpg]
                             [**2133-1-31**]  05:40 AM
                             [**2133-1-31**]  12:11 PM
                             [**2133-1-31**]  04:45 PM
                             [**2133-2-1**]  05:17 AM
                             [**2133-2-1**]  04:19 PM
                             [**2133-2-2**]  04:40 AM
                             [**2133-2-2**]  04:28 PM
                             [**2133-2-3**]  05:18 AM
                             [**2133-2-3**]  05:32 PM
                             [**2133-2-4**]  04:25 AM
   WBC
   19.5
   16.9
   14.6
   15.0
   13.5
   Hct
   23.5
   22.4
   22.9
   22.2
   22.3
   21.1
   21.1
   28.5
   29.0
   27.9
   Plt
   546
   530
   476
   594
   531
   Cr
   3.3
   3.6
   3.4
   3.5
   3.7
   4.1
   5.0
   TropT
   0.12
   0.13
   0.14
   Glucose
   134
   197
   39
   136
   72
   154
   Other labs: PT / PTT / INR:15.3/27.4/1.4, CK / CKMB /
   Troponin-T:12/3/0.14, ALT / AST:[**5-/2085**], Alk Phos / T Bili:148/5.9,
   Albumin:2.2 g/dL, LDH:243 IU/L, Mg++:2.2 mg/dL, PO4:8.5 mg/dL
   Imaging: CXR - large heart. Bilateral alveolar infiltrates. Probable
   bilateral effusions. No significant change from previous film.
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 PERICARDITIS, OTHER
 PNEUMONIA, OTHER
 ANEMIA, CHRONIC
 PARKINSON'S DISEASE
 DIABETES MELLITUS (DM), TYPE II
 [**Hospital 74**] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA)
 CHOLESTASIS
   [**2-14**] biliary obstruction from duodenal mass likely due to recurrance of
   gastric cancer
 PLEURAL EFFUSION, ACUTE
   Liver function tests improving.
   Renal function worsening and urine output down despite fluid boluses
   this morning. Potassium elevated. Renal team aware. Patient probably
   heading for dialysis. Will give lasix today to try to get some urine
   output and avert problems with hyperkalemia. Neck veins elevated;
   suspect volume overloaded. Breathing pattern with expiratory grunt also
   indicative of CHF. Mental status a bit worse today likely due to
   progressing uremia. Respiratory status with increased accessory muscle
   use likely reflecting acidosis and fluid overload.
   Hct stable. No need for transfusion today.
   Completing two week course of antibiotics.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2133-2-4**] 12:04 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2133-2-3**] 12:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2133-02-05 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2133-2-4**] 08:54 AM
 ULTRASOUND - At [**2133-2-4**] 11:15 AM
   renal ultrasound
 DIALYSIS CATHETER - START [**2133-2-4**] 03:54 PM
   placed by [**Last Name (NamePattern4) 137**], MD
   -UOP decreased yesterday until pt anuric and has not made urine since
   yesterday morning.
   -Noted to be hyperkalemic and hyperphosphatemic.  Given Kayexelate,
   with repeat lytes showing K decrease to 4.9
   -Renal was consulted, and decision made to start dialysis.  Given pt's
   borderline BP, with systolic pressures in the 100s, decided to initiate
   CVVH.
   -Renal US obtained, and showed no hydronephrosis and a simple cyst in
   the Upper lobe of the R kidney
   -Afebrile for past 24 hours
   -BP stable with no requirement for fluid bolus
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2133-2-4**] 09:00 AM
   Fluconazole - [**2133-2-4**] 02:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2133-2-5**] 05:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2133-2-4**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-2-5**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.5
   HR: 81 (64 - 84) bpm
   BP: 122/59(73){85/36(52) - 124/59(73)} mmHg
   RR: 25 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
             Total In:
                                                                  2,713 mL
                                                                  1,259 mL
   PO:
             TF:
                                                                    952 mL
                                                                    311 mL
   IVF:
                                                                    861 mL
                                                                    548 mL
   Blood products:
   Total out:
                                                                    910 mL
                                                                  1,203 mL
   Urine:
                                                                     35 mL
   NG:
                                                                    900 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  1,803 mL
                                                                     56 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   Eyes / Conjunctiva: icteric sclera
   Cardiovascular: (S1: Normal), (S2: Normal), Rub, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: at R
   base, Rhonchorous: ), [limited anterior exam]; use of accessory muscles
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, Jaundice
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, has eyes open but not clearly responsive or tracking; very
   little blinking, no blink to confrontation
   Labs / Radiology
   518 K/uL
   7.6 g/dL
   61 mg/dL
   4.9 mg/dL
   21 mEq/L
   3.8 mEq/L
   52 mg/dL
   108 mEq/L
   144 mEq/L
   26.0 %
   14.3 K/uL
        [image002.jpg]
                             [**2133-1-31**]  04:45 PM
                             [**2133-2-1**]  05:17 AM
                             [**2133-2-1**]  04:19 PM
                             [**2133-2-2**]  04:40 AM
                             [**2133-2-2**]  04:28 PM
                             [**2133-2-3**]  05:18 AM
                             [**2133-2-3**]  05:32 PM
                             [**2133-2-4**]  04:25 AM
                             [**2133-2-4**]  05:16 PM
                             [**2133-2-5**]  04:20 AM
   WBC
   16.9
   14.6
   15.0
   13.5
   13.2
   14.3
   Hct
   22.9
   22.2
   22.3
   21.1
   21.1
   28.5
   29.0
   27.9
   26.0
   26.0
   Plt
   [**Telephone/Fax (3) 138**]31
   555
   518
   Cr
   3.6
   3.4
   3.5
   3.7
   4.1
   5.0
   5.6
   4.9
   TropT
   0.13
   0.14
   Glucose
   197
   39
   136
   72
   154
   244
   61
   Other labs: PT / PTT / INR:16.1/26.1/1.4, CK / CKMB /
   Troponin-T:12/3/0.14, ALT / AST:[**9-/2077**], Alk Phos / T Bili:157/4.6,
   Albumin:2.2 g/dL, LDH:243 IU/L, Ca++:0.97 mmol/L, Mg++:2.0 mg/dL,
   PO4:4.9 mg/dL
   Assessment and Plan
 HYPOXEMIA
   Pt continues to require high flow facemask for low O2 sats. Pleural
   effusion; some fluid overload, treating for pneumonia. Continue
   levo/zosyn. Fluconazole already started for biliary yeast. Pleural
   fluid c/w communication from biliary drain procedure, positive yeast
   suggestive of same organism moving through similar space. Would not
   change fluconazole at this point, unlikely to be separate process.
 CHOLESTASIS
   [**2-14**] biliary obstruction from duodenal mass likely due to recurrence of
   gastric cancer.  Internal CBD stent revision by IR on [**1-4**]. Not
   revising this further.
 DIABETES MELLITUS (DM), TYPE II
   Improving control.
 PLEURAL EFFUSION, ACUTE
   R thoracentesis on [**1-4**] by IR with removal of 700 cc fluid. Appears
   that fluid and past PTX consistent with perf of diaphragm in the
   process of IR procedure in biliary system. Would not intervene further.
   Pleural rub fading/gone at this point
indicates that inflammatory state
   in this area is decreasing.
 PNEUMONIA, OTHER
   Pt has multilobular infiltrates on CXR.  Curentlly treating for HAP.
   See
hypoxemia
 above.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Acute rise in creatinine with decreased urine output, hyperkalemia, and
   hyperphosphatemia; now on CVVH.
   .
   GOALS OF CARE
   Discussing goals of care with family; we are not anticipating a major
   turnaround for Mr [**Known lastname 86**] and it is important that they know this.
   Thus far their goal has been transfer to [**Hospital3 **] Hospital when
   possible, so we will continue to try to make this feasible.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2133-2-4**] 12:12 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2133-2-3**] 12:00 PM
   Dialysis Catheter - [**2133-2-4**] 03:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2133-02-05 10:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, cholangitis, bacteremia, renal
   failure, pericarditis, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Renal ultrasound - no hydronephrosis. Dialysis initiated yesterday;
   CVVH used because of low blood pressures. Minimal urine output.
   Afebrile for past 24 hours. Hemodynamically stable; no fluid boluses
   required. WBC stable.
   24 Hour Events:
 EKG - At [**2133-2-4**] 08:54 AM
 ULTRASOUND - At [**2133-2-4**] 11:15 AM
   renal ultrasound
 DIALYSIS CATHETER - START [**2133-2-4**] 03:54 PM
   placed by [**Last Name (NamePattern4) 137**], MD
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2133-2-4**] 09:00 AM
   Fluconazole - [**2133-2-4**] 02:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2133-2-5**] 05:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2133-2-4**] 02:00 PM
   Other medications:
   Vanco with dialysis
   Epogen
   Diltiazem
   Levalbuterol
   ASA
   Sinemet
   Heparin sc
   aluminum hydroxide
   PPI
   Insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-2-5**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.2
C (97.2
   HR: 82 (64 - 84) bpm
   BP: 111/43(61){97/36(52) - 124/59(73)} mmHg
   RR: 20 (19 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 84.5 kg (admission): 83.2 kg
   Height: 71 Inch
             Total In:
                                                                  2,713 mL
                                                                  1,597 mL
   PO:
             TF:
                                                                    952 mL
                                                                    405 mL
   IVF:
                                                                    861 mL
                                                                    792 mL
   Blood products:
   Total out:
                                                                    910 mL
                                                                  2,358 mL
   Urine:
                                                                     35 mL
                                                                     15 mL
   NG:
                                                                    900 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  1,803 mL
                                                                   -760 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: VBG: 7.18/64/25
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S2: Distant), No(t) S3, No(t) S4, Rub,
   (Murmur: No(t) Systolic, No(t) Diastolic), Soft heart sounds. Prominent
   pericardial friction rub
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , No(t) Rhonchorous: ), Expiratory grunt
   breathing pattern
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, colostomy
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice, Ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   518 K/uL
   61 mg/dL
   4.9 mg/dL
   21 mEq/L
   3.8 mEq/L
   52 mg/dL
   108 mEq/L
   144 mEq/L
   26.0 %
   14.3 K/uL
        [image002.jpg]
                             [**2133-1-31**]  04:45 PM
                             [**2133-2-1**]  05:17 AM
                             [**2133-2-1**]  04:19 PM
                             [**2133-2-2**]  04:40 AM
                             [**2133-2-2**]  04:28 PM
                             [**2133-2-3**]  05:18 AM
                             [**2133-2-3**]  05:32 PM
                             [**2133-2-4**]  04:25 AM
                             [**2133-2-4**]  05:16 PM
                             [**2133-2-5**]  04:20 AM
   WBC
   16.9
   14.6
   15.0
   13.5
   13.2
   14.3
   Hct
   22.9
   22.2
   22.3
   21.1
   21.1
   28.5
   29.0
   27.9
   26.0
   26.0
   Plt
   [**Telephone/Fax (3) 138**]31
   555
   518
   Cr
   3.6
   3.4
   3.5
   3.7
   4.1
   5.0
   5.6
   4.9
   TropT
   0.13
   0.14
   Glucose
   197
   39
   136
   72
   154
   244
   61
   Other labs: PT / PTT / INR:16.1/26.1/1.4, CK / CKMB /
   Troponin-T:12/3/0.14, ALT / AST:[**9-/2077**], Alk Phos / T Bili:157/4.6,
   Albumin:2.2 g/dL, LDH:243 IU/L, Ca++:0.97 mmol/L, Mg++:2.0 mg/dL,
   PO4:4.9 mg/dL
   Imaging: CXR: Bilateral patchy alveolar infiltrates, with suggestion of
   peripheral predominance (especially on film from [**2-4**]). Mild clearing
   at bases.
   Assessment and Plan
 HYPOXEMIA
   Pt continues to require high flow facemask for low O2 sats.
 CHOLESTASIS
   [**2-14**] biliary obstruction from duodenal mass likely due to recurrance of
   gastric cancer.  Internal CBD stent revision by IR on [**1-4**].
 DIABETES MELLITUS (DM), TYPE II
   Elevated FS throughout the day today.
 PLEURAL EFFUSION, ACUTE
   R thoracentesis on [**1-4**] by IR with removal of 700 cc fluid.
 PNEUMONIA, OTHER
   Pt has multilobular infiltrates on CXR.  Curentlly treating for HAP
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Acute rise in creatinine with decreased urine output, hyperkalemia, and
   hyperphosphatemia.
   ACIDOSIS
   ANEMIA
   Respiratory status remains good off of venitlator. CXR continues to
   show prominent infiltrates, however. The infiltrates have a somewhat
   peripheral predominance, suggestive of eosinophilic pneumonia. Will
   check WBC differential. Some of the infiltrate may represent volume
   overload. Dialysis in process.
   Afebrile with stable WBC. Continues on antibiotics for cholangitis.
   Bilirubin still elevated. Yeast growing from pleural fluid, but we know
   that pleural space was compromised by the external pleural space.
   Patient on fluconazole. Absent fever and rising WBC, would not access
   pleural space at this time, would not place chest tube.
   Patient getting dialysis now; there are problems with the dialysis
   catheter which will need to be addressed by renal.
   Mental status waxes and wanes. Difficult to know how much of this is
   due to uremia vs worsening acidosis (combined respiratory and metabolic
   acidosis). Patient is not to be reintubated per family directions. Will
   discuss potential imminence of demise due to acidosis with family and
   their goals to get patient back to [**Hospital3 **] Hospital.
   Hct stable. Not at transfusion threshold now.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2133-2-4**] 12:12 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2133-2-3**] 12:00 PM
   Dialysis Catheter - [**2133-2-4**] 03:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2133-02-06 06:39:00 Physician Resident Progress Note
Chief Complaint: biliary obstruction, fever
   24 Hour Events:
   Made CMO
   Awaiting t'fer to [**Hospital3 187**]. [**Last Name (STitle) 25**] in touch with [**Hospital3 **]
   attending
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2133-2-4**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2133-2-5**] 12:00 PM
   Fluconazole - [**2133-2-5**] 02:14 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2133-2-6**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.1
C (97
   HR: 81 (71 - 84) bpm
   BP: 118/48(62){93/40(54) - 131/59(73)} mmHg
   RR: 25 (10 - 25) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.5 kg (admission): 83.2 kg
   Height: 71 Inch
                  Total In:
                                                                  2,487 mL
                  PO:
                  TF:
                                                                    520 mL
   IVF:
                                                                  1,267 mL
   Blood products:
   Total out:
                                                                  5,289 mL
                                                                    315 mL
   Urine:
                                                                     21 mL
                                                                     15 mL
   NG:
                                                                    700 mL
                                                                      0 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,802 mL
                                                                   -315 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 91%
   ABG: none
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology [**2-5**] (NO LABS DRAWN ON [**2-6**])
   518 K/uL
   7.6 g/dL
   157 mg/dL
   3.9 mg/dL
   25 mEq/L
   4.1 mEq/L
   41 mg/dL
   103 mEq/L
   140 mEq/L
   26.0 %
   14.3 K/uL
        [image002.jpg]
                             [**2133-2-1**]  05:17 AM
                             [**2133-2-1**]  04:19 PM
                             [**2133-2-2**]  04:40 AM
                             [**2133-2-2**]  04:28 PM
                             [**2133-2-3**]  05:18 AM
                             [**2133-2-3**]  05:32 PM
                             [**2133-2-4**]  04:25 AM
                             [**2133-2-4**]  05:16 PM
                             [**2133-2-5**]  04:20 AM
                             [**2133-2-5**]  09:51 AM
   WBC
   16.9
   14.6
   15.0
   13.5
   13.2
   14.3
   Hct
   22.2
   22.3
   21.1
   21.1
   28.5
   29.0
   27.9
   26.0
   26.0
   Plt
   [**Telephone/Fax (3) 138**]31
   555
   518
   Cr
   3.4
   3.5
   3.7
   4.1
   5.0
   5.6
   4.9
   3.9
   TropT
   0.14
   Glucose
   39
   136
   72
   154
   244
   61
   157
   Other labs: PT / PTT / INR:16.1/26.1/1.4, CK / CKMB /
   Troponin-T:12/3/0.14, ALT / AST:[**9-/2077**], Alk Phos / T Bili:157/4.6,
   Differential-Neuts:95.0 %, Band:Units: %
   Range: 0-5 %, Lymph:3.0 %, Mono:1.0 %, Eos:1.0 %, Albumin:2.2 g/dL,
   LDH:243 IU/L, Ca++:0.95 mmol/L, Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   Micro:
   [**1-6**] Stool
 C.diff pending
   [**1-4**] Pleural Fluid
 rare growth yeast
   [**2-6**] CXR: pending
   [**2-5**] CXR:
   In comparison with study of [**2-4**], there is little radiographic
   change.  Bilateral opacifications persist.  Radiographic changes may be
   substantially behind the clinical improvement.
   Assessment and Plan
   A/P: 80 y/o M w/history of diabetes, gastric cancer, initially p/w
   painless jaundice, GNR bacteremia, biliary obstruction [**2-14**] duodenal
   mass positive for adenocarcinoma, transferred to ICU with respiratory
   distress and bilaterally pulmonary infiltrates, progressing renal
   failure, PTX and pleural effusion, now made CMO with plans to transfer
   back to CCH to be closer to home.
   .
   #Recurrent pancreatic cancer
 causing biliary obstruction
   #Pleural effusions: very large R sided effusion seen on CT, smaller L
   sided possibly parapneumonic vs malignant vs transudative.
   -tap during IR guided procedure
   -send fluid fo chemitries, cell count/diff and cultures
   -volume removal may improve symptoms of o2 dependence
   .
   #Pneumothorax - most likely [**2-14**] IR guided procedure and entrance of
   biliary drain above diaphragm.  No significant resp/hemodynamic
   compromise from PTX at this point.
   -monitor for resolution
   .
   #Biliary obstruction: h/o gastric cancer with tumor infiltration of
   duodenum seen on ERCP.  Biopsies taken during ERCP show poorly
   differentiated adenocarcinoma c/w recurrance of gastric cancer.  Plan
   for IR guided extension of CBD stent today, INR within rage of 1.3.
   Also with sparse growth of [**Female First Name (un) 188**] from bile cx on [**1-29**].
   -f/u IR reccs post procedure
   -continue fluconazole for biliary cultures positive for [**Female First Name (un) 188**]
   -discuss/fax results prior to D/C to patients oncologist, Dr. [**First Name (STitle) 189**] at
   CCH [**Telephone/Fax (1) 190**]
   .
   # Acute on chronic renal failure: Had resolving ATN and post-ATN
   diuresis on transfer out of ICU previously, now once again has rising
   creatinine likely due to additional hypoperfusion insult.  Creatinine
   trending up for past several days and he has had marginal urine
   output.  On exam he also has a persistant pericardial friction rub
   worrisome for possiblity of uremic pericarditis.  Renal team has been
   following, no indication for dialysis at this point given that he is
   making good urine and creatinine stabilized.
   -Trend creat, renally dose meds
   -f/u renal reccs, no indication for dialysis at this time
   -continue with tube feeds to maintain hydration
   -goal even today
   -IVF boluses for urine output as long as responding
   -send ua, urine lytes
   -f/u renal reccs
   .
   #Atrial fibrillation - new onset during this admission, has been in
   sinus since restarting dilt, patient's family denies any prior h/o
   afib.  Most likely [**2-14**] fevers/concomittant illness, pneumonia,
   pericarditis.  Ruled out for MI by CE's, troponin elevation [**2-14**] ARF.
   -continue with dilt 60 po TID as tolerated by BP was on cartia xt 180
   po daily as an outpatient.
   .
   #Guiac positive colostomy output - significantly decreased, with stable
   HCT following transfusion.
   -[**Hospital1 **] HCT
   -monitor colostomy output
   -IV PPI [**Hospital1 **], can change to po at this point once reliably taking po's
   -FFP if significant bloody output or drop in HCT, transfuse for HCT <21
   or significant drop in setting of signific bleed
   .
   #Coagulopathy - Improvement in INR to 1.3 following po Vit K x3 doses
   from [**Date range (1) 191**], Vit K IV and FFP.  Likely [**2-14**] malnutrition, long term
   abx.
   -monitor coags
   -continue with tube feeds
   .
   #Bilateral pulmonary infiltrates: differential includes aspiration
   pneumonitis/pneumonia vs. flash pulmonary edema however CXR appearance
   and rapid clinical resolution less consistent with pulmonary edema.  He
   has obscured diaphragms on CXR worrisome for infiltrate.
   -continue with current treatment of vanc, zosyn and levo given
   likelihood of aspiration pnemonitis/pneumonia to complete 14 day course
   then d/c
   -will need f/u CXR's and possibly CT to ensure resolution of
   infiltrates.
   .
   #anemia: hct on admission 34.3, has been slowly trending down.  Likely
   with element of chronic anemia given that he is on epoetin as
   outpatient.  Transfused 2 units yesterday with bump in HCT to 28.
   -follow [**Hospital1 **] HCT
   -transfuse for HCT <21 or acute drop in HCT
   -continue epoetin 3x/wk
   .
   # parkinsons: cont sinemet
   .
   #DM2 - controlled without complication. hold oral hypoglycemics. --
   cover with Regular insulin sliding scale.
   -glargine 8 qHS, titrate up prn for glucose control
   .
   # FEN: continue with tube feeds, continue with free water flushes q4
   hours for hypernatremia (free water defecit today is 2.5L), Replete
   lytes prn.
   .
   #ppx: hep SQ, bowel reg, PPI
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2133-2-3**] 12:00 PM
   Dialysis Catheter - [**2133-2-4**] 03:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: with wife and daughter [**Name (NI) **] [**Telephone/Fax (1) 192**]
   [**Name2 (NI) 66**] status: CMO
   Disposition: plans to transfer to [**Hospital3 122**] hospital

2133-02-06 09:29:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, renal failure, cholangitis,
   pleural effusion, pericarditis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient decided to shift emphasis of care to comfort measures yesterday
   afternoon. Patient more interactive this AM. No further dialysis
   provided.
   No labs this AM. Flagyl started for possible C Diff
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2133-2-4**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2133-2-5**] 12:00 PM
   Fluconazole - [**2133-2-5**] 02:14 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Morphine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-2-6**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.1
C (97
   HR: 81 (71 - 84) bpm
   BP: 118/48(62){93/40(54) - 131/54(67)} mmHg
   RR: 25 (10 - 25) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.5 kg (admission): 83.2 kg
   Height: 71 Inch
                  Total In:
                                                                  2,487 mL
                  PO:
                  TF:
                                                                    520 mL
   IVF:
                                                                  1,267 mL
   Blood products:
   Total out:
                                                                  5,289 mL
                                                                    315 mL
   Urine:
                                                                     21 mL
                                                                     15 mL
   NG:
                                                                    700 mL
                                                                      0 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,802 mL
                                                                   -315 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 91%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Distant), No(t) S3,
   No(t) S4, Rub, (Murmur: No(t) Systolic, No(t) Diastolic), Loud
   pericardial friction rub
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : coarse, diffuse, No(t) Bronchial: , Wheezes :
   Prolonged expiratory phase, No(t) Diminished: , No(t) Absent : ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   518 K/uL
   157 mg/dL
   3.9 mg/dL
   25 mEq/L
   4.1 mEq/L
   41 mg/dL
   103 mEq/L
   140 mEq/L
   26.0 %
   14.3 K/uL
        [image002.jpg]
                             [**2133-2-1**]  05:17 AM
                             [**2133-2-1**]  04:19 PM
                             [**2133-2-2**]  04:40 AM
                             [**2133-2-2**]  04:28 PM
                             [**2133-2-3**]  05:18 AM
                             [**2133-2-3**]  05:32 PM
                             [**2133-2-4**]  04:25 AM
                             [**2133-2-4**]  05:16 PM
                             [**2133-2-5**]  04:20 AM
                             [**2133-2-5**]  09:51 AM
   WBC
   16.9
   14.6
   15.0
   13.5
   13.2
   14.3
   Hct
   22.2
   22.3
   21.1
   21.1
   28.5
   29.0
   27.9
   26.0
   26.0
   Plt
   [**Telephone/Fax (3) 138**]31
   555
   518
   Cr
   3.4
   3.5
   3.7
   4.1
   5.0
   5.6
   4.9
   3.9
   TropT
   0.14
   Glucose
   39
   136
   72
   154
   244
   61
   157
   Other labs: PT / PTT / INR:16.1/26.1/1.4, CK / CKMB /
   Troponin-T:12/3/0.14, ALT / AST:[**9-/2077**], Alk Phos / T Bili:157/4.6,
   Differential-Neuts:95.0 %, Band:Units: %
   Range: 0-5 %, Lymph:3.0 %, Mono:1.0 %, Eos:1.0 %, Albumin:2.2 g/dL,
   LDH:243 IU/L, Ca++:0.95 mmol/L, Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Acute rise in creatinine with decreased urine output, hyperkalemia, and
   hyperphosphatemia.
 HYPOXEMIA
 .H/O CANCER (MALIGNANT NEOPLASM), STOMACH
   Biopsy of doudenal mass positive for adenocarcinoma.  Recieves care at
   [**Hospital3 **] hospital
 CHOLESTASIS
   [**2-14**] biliary obstruction from duodenal mass likely due to recurrance of
   gastric cancer.  Internal CBD stent revision by IR on [**1-4**].
 DIABETES MELLITUS (DM), TYPE II
   Elevated FS throughout the day today.
 PLEURAL EFFUSION, ACUTE
   R thoracentesis on [**1-4**] by IR with removal of 700 cc fluid.
 PNEUMONIA, OTHER
   Pt has multilobular infiltrates on CXR.  Were treating for HAP
   RESPIRATORY FAILURE
   Patient's PaCO2 has been rising. Metabolic acidosis worsening with
   renal failure. Patient now comfort measures, DNR/DNI. Will continue
   morphine as needed for pain and discomfort. Probably should stop the
   flagyl at this point. No signs of respiratory distress by physical
   exam. Attempt to transfer patient to [**Hospital3 **] Hospital today per the
   family's wishes. I have spoken with the patient's PCP about the
   transfer.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2133-2-3**] 12:00 PM
   Dialysis Catheter - [**2133-2-4**] 03:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments: Patient on comfort measures.
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to other facility
   Total time spent: 25 minutes